US04678783
5 g of 1-(5-isoquinolinesulfonyl)homopiperazine (Compound(1)) as prepared in substantially the same manner as in Example 3 was dissolved in 40 ml of methanol, and the pH of the solution was adjusted to 6 with 1N hydrochloric acid. Then the solution was condensed under reduced pressure to obtain a crystalline residue. The crystalline residue thus obtained was recrystallized from methanol-ether to obtain 1-(5isoquinolinesulfonyl)homopiperazine hydrochloride. Analytical data on this compound are given below.

reactant | 1-(5-isoquinolinesulfonyl)homopiperazine | 5 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCNCCC1 | C14H17N3O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 1-(5isoquinolinesulfonyl)homopiperazine hydrochloride | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCNCCC1 | InChI=1S/C14H17N3O2S.ClH/c18-20(19,17-9-2-6-15-8-10-17)14-4-1-3-12-11-16-7-5-13(12)14;/h1,3-5,7,11,15H,2,6,8-10H2;1H
